US05244898
5-[2-(p-Toluenesulfonyloxy)ethoxy]-7-fluoro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g), N-methylpiperazine (0.38 ml) and sodium iodide (0.3 g) are dispersed in dimethylformamide (10 ml), and the mixture is stirred at room temperature for 3 days. The reaction mixture is concentrated, and thereto is added water. The mixture is extracted with ethyl acetate, and the extract is dried over sodium carbonate, and purified by silica gel column chromatography (eluent; dichloromethane:methanol=10:1) to give 5-[2-(4-methyl-1-piperazinyl)-ethoxy]-7-fluoro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.15 g) as colorless amorphous.

reactant | 5-[2-(p-Toluenesulfonyloxy)ethoxy]-7-fluoro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1CCCN(C2=C1C=C(C=C2)F)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O)C | C35H35FN2O7S
reactant | N-methylpiperazine | 0.38 ml | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-[2-(4-methyl-1-piperazinyl)-ethoxy]-7-fluoro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.15 g | CN1CCN(CC1)CCOC1CCCN(C2=C1C=C(C=C2)F)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O | C33H39FN4O4
